US07728025B2
(Step 5) Production of 1-(2-(2-(5-bromo-pyridin-2-yl)-6-(4-methanesulfonyl-phenoxy)-3H-benzimidazol-5-yl)-pyrrolidin-1-yl)-ethanone
0.050 ml of acetic anhydride was added to a pyridine (2 ml) solution of 220 mg of 2-(5-bromo-pyridin-2-yl)-5-(4-methanesulfonyl-phenoxy)-6-pyrrolidin-2-yl-1H-benzimidazole, and the reaction liquid was stirred at room temperature for 30 minutes. The reaction liquid was diluted with chloroform, washed with water and saturated saline in order, and dried with anhydrous magnesium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: chloroform/methanol/aqueous ammonia=50/1/0.1) to obtain the entitled compound as a pale brown solid.

reactant | acetic anhydride | 0.050 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-(5-bromo-pyridin-2-yl)-5-(4-methanesulfonyl-phenoxy)-6-pyrrolidin-2-yl-1H-benzimidazole | 220 mg | BrC=1C=CC(=NC1)C1=NC2=C(N1)C=C(C(=C2)OC2=CC=C(C=C2)S(=O)(=O)C)C2NCCC2 | C23H21BrN4O3S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-(2-(5-bromo-pyridin-2-yl)-6-(4-methanesulfonyl-phenoxy)-3H-benzimidazol-5-yl)-pyrrolidin-1-yl)-ethanone | BrC=1C=CC(=NC1)C=1NC2=C(N1)C=C(C(=C2)C2N(CCC2)C(C)=O)OC2=CC=C(C=C2)S(=O)(=O)C | C25H23BrN4O4S
